US05262425
Step g: [1R,2S,3R,4S,5R]-2-amino-β-hydroxy-3,4,5-tris(phenylmethoxy)cyclopentanepropanoic acid, ethyl ester
Dissolve [1R,2S,3R,4S,5R]-2-[[(1,1-dimethylethoxy)carbonyl]amino]-β-hydroxy-3,4,5-tris(phenylmethoxy)cyclopentanepropanoic acid, ethyl ester (160 mg, 0.258 mmol) in ethyl ether (20 mL) and cool to 0°-5° C. with an ice bath. Bubble hydrogen chloride gas into the solution for 25-30 minutes. Remove the ice bath and evaporate the ethyl ether to 1/2 volume with a stream of nitrogen. Add fresh ethyl ether and carefully add aqueous sodium hydrogen carbonate. Separate the organic phase and extract the aqeuous phase with ethyl acetate. Combine the organic phases, wash with aqueous sodium chloride, dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as a mixture of epimers (140 mg).

reactant | [1R,2S,3R,4S,5R]-2-[[(1,1-dimethylethoxy)carbonyl]amino]-β-hydroxy-3,4,5-tris(phenylmethoxy)cyclopentanepropanoic acid, ethyl ester | 0.258 mmol, 160 mg | CC(C)(OC(=O)N[C@H]1[C@@H]([C@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(CC(=O)OCC)O)C | C36H45NO8
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | [1R,2S,3R,4S,5R]-2-amino-β-hydroxy-3,4,5-tris(phenylmethoxy)cyclopentanepropanoic acid, ethyl ester | N[C@H]1[C@@H]([C@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(CC(=O)OCC)O | C31H37NO6
